US04041032
In 20 ml. of methanol were dissolved 2.0 g. of methyl 6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxylate and 2.0 g. of 2-aminomethyl-1-ethylpyrrolidine and the solution was refluxed for 24 hours. After cooling, the solvent was distilled off under reduced pressure from the reaction mixture to provide an oily residue. The residue was dissolved in 30 ml. of a dilute aqueous hydrochloric acid solution and the solution was washed three times each time with 10 ml. of chloroform. (The chloroform washings was washed with water, dried, and then the solvent was distilled off under reduced pressure, whereby 1.05 g. of methyl 6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxylate used as the starting material was recovered.). The aqueous layer was basified with a 3 N aqueous sodium hydroxide solution and the oily material formed was extracted with 30 ml. of chloroform. The extract was washed with water, dried, the solvent was distilled off under reduced pressure, and the oily residue formed was allowed to stand, whereby the oily residue was crystallized. After recrystallizing the crystals from toluene, 0.88 g. of N-(1-ethylpyrrolidin-2-ylmethyl)-6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxamide melting at 167°-169° C. was obtained.

reactant | methyl 6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxylate | ClC1=C(N=C(C(=N1)C(=O)OC)OC)NCC | C9H12ClN3O3
reactant | 2-aminomethyl-1-ethylpyrrolidine | NCC1N(CCC1)CC | C7H16N2
solvent | methanol | CO | CH4O
product | N-(1-ethylpyrrolidin-2-ylmethyl)-6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxamide | C(C)N1C(CCC1)CNC(=O)C1=NC(=C(N=C1OC)NCC)Cl | C15H24ClN5O2
